US06340758B1
6-Bromo-5-methyl-isatoic anhydride (3)
To a suspension of 5-methyl-isatoic anhydride (9.2 g, 0.052 mol) in a mixture of glacial acetic acid (60 mL) and TFA (30 mL), bromine (9.9 g, 0.062 mol) was added under stirring at 5° C. Reaction mixture warmed to room temperature and stirred˜5 hours. Poured in cold water and yellow ppt filtered and washed with water and dried. Yield: 12.09 g, 90%.

reactant | 5-methyl-isatoic anhydride | 0.052 mol, 9.2 g | CC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C9H7NO3
reactant | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | bromine | 0.062 mol, 9.9 g | BrBr | Br2
solvent | water | O | H2O
product | 6-Bromo-5-methyl-isatoic anhydride | BrC=1C(=CC=C2C1C(=O)OC(N2)=O)C | C9H6BrNO3
